US07417169B2
4-Carboxy-2-methoxyphenylboronic acid
Lithium hydroxide monohydrate (0.092 g) was added to a mixture of 4-ethoxycarbonyl-2-methoxyphenylboronic acid (0.049 g), water (1 mL) and 1,4-dioxane (1 mL), and the mixture was stirred at room temperature overnight. To the reaction mixture was added 2 mol/L hydrochloric acid (1.09 mL), and the solvent was evaporated under reduced pressure. The residue was washed with water to afford the title compound (0.035 g).

reactant | Lithium hydroxide monohydrate | 0.092 g | O.[OH-].[Li+]
reactant | 4-ethoxycarbonyl-2-methoxyphenylboronic acid | 0.049 g | C(C)OC(=O)C1=CC(=C(C=C1)B(O)O)OC | C10H13BO5
reactant | water | 1 mL | O | H2O
reactant | hydrochloric acid | 2 mol/L, 1.09 mL | Cl | ClH
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 4-Carboxy-2-methoxyphenylboronic acid | 0.035 g | C(=O)(O)C1=CC(=C(C=C1)B(O)O)OC | C8H9BO5
